US07468371B2
phenyl 4-(2-phenoxyethoxy)benzoate
A mixture of phenyl 4-hydroxybenzoate (2.14 g, 10 mmol), 2-phenoxyethyl bromide (12.1 g, 60 mmol) and potassium carbonate (4.1 g, 30 mmol) in 1,4-dioxane (60 mL) was heated to reflux for about 2 days. The mixture was cooled, filtered and concentrated under vacuum. The residue was purified by flash chromatography on silica gel using hexane/ethyl acetate (3:1) as eluent to provide the desired product. 1H NMR (500 MHz, CDCl3) δ 4.39 (m, 2H), 4.42 (m, 2H), 6.97 (d, J=8 Hz, 2H), 6.99 (t, J=8 Hz, 1H), 7.03 (d, J=8 Hz, 2H), 7.21 (d, J=8 Hz, 2H), 7.25 (m, 1H), 7.35 (t, J=8 Hz, 2H), 7.42 (t, J=8 Hz, 2H), 8.17 (d, J=8 Hz, 2H).

reactant | phenyl 4-hydroxybenzoate | 10 mmol, 2.14 g | OC1=CC=C(C(=O)OC2=CC=CC=C2)C=C1 | C13H10O3
reactant | 2-phenoxyethyl bromide | 60 mmol, 12.1 g | O(C1=CC=CC=C1)CCBr | C8H9BrO
reactant | potassium carbonate | 30 mmol, 4.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | phenyl 4-(2-phenoxyethoxy)benzoate | O(C1=CC=CC=C1)CCOC1=CC=C(C(=O)OC2=CC=CC=C2)C=C1 | C21H18O4
